US05358950
29 g of 6-n-propyl-2-methylthio-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 101, are dissolved in 250 ml of diglyme, and 60 g of Raney nickel are added. The mixture is heated to reflux for 3 hours. The catalyst is filtered off and washed with ethanol, the filtrate is evaporated under vacuum and the residue is chromatographed on silica gel in a 2:8 acetone/chloroform eluent to give 14.2 g of 6-n-propyl-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine in the form of crystals of melting point 158° C.

reactant | 6-n-propyl-2-methylthio-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 29 g | C(CC)C1=C(C(=NC(=N1)SC)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H21N3OS
solvent | diglyme | 250 ml | COCCOCCOC | C6H14O3
catalyst | Raney nickel | 60 g | [Ni] | Ni
product | 6-n-propyl-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 14.2 g | C(CC)C1=C(C(=NC=N1)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C21H19N3O
